US05804559
a) Preparation of N-tert-butoxycarbonyl-N,N'-dimethyl-1,3-propanediamine
A solution of 2.79 g of di-tert-butyl dicarbonate in 40 ml of dry dioxane was added to 10.2 g of N,N'-dimethyl-1,3-propanediamine in 40 ml of dry dioxane at RT in the course of 2 hours. The mixture was stirred at RT for 16 hours. The solvent was then distilled off in vacuo and the residue was evaporated 2× with toluene. The residue was dissolved in 60 ml of water and the solution was extracted 3× with 50 ml of EA each time. The organic phase was then washed with aqueous KHCO3 /NaCl solution, dried with Na2SO4 and concentrated.

reactant | di-tert-butyl dicarbonate | 2.79 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | N,N'-dimethyl-1,3-propanediamine | 10.2 g | CNCCCNC | C5H14N2
solvent | dioxane | 40 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 40 ml | O1CCOCC1 | C4H8O2
product | N-tert-butoxycarbonyl-N,N'-dimethyl-1,3-propanediamine | C(C)(C)(C)OC(=O)N(CCCNC)C | C10H22N2O2
